US07256201B2
4) Synthetic Method K: Synthesis of 5-hydroxy-2-(4-hydroxyphenyl)isoindoline
5-Benzyloxy-2-(4-benzyloxyphenyl)isoindoline (400 mg) in TFA (12 mL) was refluxed under nitrogen atmosphere for 1 h and cooled. The solvents were removed under vacuum. The residue was dissolved in ethyl acetate (100 mL) and washed with saturated sodium bicarbonate (twice) then brine. Purification by chromatography on silica gel (eluant: dichloromethane—methanol 95:5) gave the title compound (95 mg) as a tan solid. 1H NMR (DMSO-d6): 9.35 (s, 1H), 8.53 (s, 1H), 7.14 (d, 1H, J=8.4 Hz), 6.75 (s br, 1H), 6.69 (m, 3H), 6.49 (d, 2H, J=8.7 Hz), 4.38 (m, 4H); MS: 228 (MH+).

reactant | 5-Benzyloxy-2-(4-benzyloxyphenyl)isoindoline | 400 mg | C(C1=CC=CC=C1)OC=1C=C2CN(CC2=CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C28H25NO2
solvent | TFA | 12 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-hydroxy-2-(4-hydroxyphenyl)isoindoline | 95 mg | OC=1C=C2CN(CC2=CC1)C1=CC=C(C=C1)O | C14H13NO2
